US06887871B2
a) [(3R)-3-(5-Chloro-2-nitrophenoxy)-3-phenylpropyl]methylcarbamic acid, 1,1-dimethylethyl ester
This was prepared by the method of Example 20(a) using [(3S)-3-hydroxy-3-phenylpropyl]methylcarbamic acid 1,1-dimethylethyl ester and 5-chloro-2-nitrophenol.

reactant | [(3S)-3-hydroxy-3-phenylpropyl]methylcarbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CC[C@@H](C1=CC=CC=C1)O)=O | C15H23NO3
reactant | 5-chloro-2-nitrophenol | ClC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4ClNO3
product | [(3R)-3-(5-Chloro-2-nitrophenoxy)-3-phenylpropyl]methylcarbamic acid, 1,1-dimethylethyl ester | ClC=1C=CC(=C(O[C@H](CCN(C(OC(C)(C)C)=O)C)C2=CC=CC=C2)C1)[N+](=O)[O-] | C21H25ClN2O5
